US08242145B2
Step 7: {3-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-5-fluoro-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 24, Step 7, using the following starting materials: [3-(4-bromo-2-bromomethyl-phenoxy)-5-fluoro-phenyl]-acetic acid ethyl ester and (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone.

reactant | [3-(4-bromo-2-bromomethyl-phenoxy)-5-fluoro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)F)OC1=C(C=C(C=C1)Br)CBr)=O | C17H15Br2FO3
reactant | (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone | C[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C10H11NO2
product | {3-[4-Bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-5-fluoro-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)F)OC1=C(C=C(C=C1)Br)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C27H25BrFNO5
